US09085555B2
B. (3-Aminomethyl-5-chloro-4-fluoro-phenyl)-(2-methoxy-ethyl)-methyl-amine
To a mixture of {3-chloro-2-fluoro-5-[(2-methoxy-ethyl)-methyl-amino]-benzyl}-carbamic acid tert-butyl ester (60 mg, 0.17 mmol) in MeOH (2 mL) was added a solution of 4N HCl in dioxane (2 mL). The reaction mixture was stirred for 1 h at ambient temperature and the solvent was removed in vacuo to give the title compound. MS (LC/MS): 247.0 [M]+. tR (HPLC conditions c): 3.15 min.

reactant | {3-chloro-2-fluoro-5-[(2-methoxy-ethyl)-methyl-amino]-benzyl}-carbamic acid tert-butyl ester | 0.17 mmol, 60 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N(C)CCOC)Cl)F)=O | C16H24ClFN2O3
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (3-Aminomethyl-5-chloro-4-fluoro-phenyl)-(2-methoxy-ethyl)-methyl-amine | NCC=1C=C(C=C(C1F)Cl)N(C)CCOC | C11H16ClFN2O
